US07125865B2
Step 1: Preparation of 6-phenyldihydropyrimidine-2,4(1H,3H)-dione.
A neat mixture of (R)-(−)-2-phenylglycine (500 mg, 2.4795 mmol) and carbamide (2 g, 33.3 mmol) was heated to 150° C. Et3N (0.6913 mL, 4.959 mmol) was added after the mixture melted. Stirring was continued at 150° C. for 4 hours followed by cooling to room temperature. The product was dissolve in water at 100° C., then cool to room temperature. Product precipitated out of the solution. The product was collected by filtration and dried for use without purification.

reactant | (R)-(−)-2-phenylglycine | 2.4795 mmol, 500 mg | C1(=CC=CC=C1)[C@@H](N)C(=O)O | C8H9NO2
reactant | carbamide | 33.3 mmol, 2 g | C(=O)(N)N | CH4N2O
reactant | Et3N | 4.959 mmol, 0.6913 mL | CCN(CC)CC | C6H15N
reactant | water | O | H2O
product | 6-phenyldihydropyrimidine-2,4(1H,3H)-dione | C1(=CC=CC=C1)C1CC(NC(N1)=O)=O | C10H10N2O2
